US04009166
A mixture of 0.5 g 1-(m-trifluoromethylphenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine, 0.8 g of dimethylcarbonate and 10 ml of dimethylformamide was reacted at 160° - 170° C in sealed-tube for 20 hours. After the reaction was finished, the solvent was distilled off from the mixture to leave a residue, to which was added water. This residue was extracted with ether and then dehydrated. The ether solution was applied on a column of alumina, and then eluted with ether. The ether was evaporated from the eluate and left to give 0.4 g of 1-(m-trifluoromethylphenyl)-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine as colorless prisms, melting at 122° - 124° C.

reactant | 1-(m-trifluoromethylphenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 0.5 g | FC(C=1C=C(C=CC1)N1C(NCC2=C1N=CC=C2)=O)(F)F | C14H10F3N3O
reactant | dimethylcarbonate | 0.8 g | COC(OC)=O | C3H6O3
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(m-trifluoromethylphenyl)-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 0.4 g | FC(C=1C=C(C=CC1)N1C(N(CC2=C1N=CC=C2)C)=O)(F)F | C15H12F3N3O
